Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8],1.79399960271
[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1][C:2]#[C:3],6.62147348599
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10].[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[O:11][H:12],-5.06630526982
[H:1][C:2]#[C:3][c:4]1[o:5][o:6][c:7]1[H:8]>>[H:1][C:2]#[C:3][C:4][C:7]([O:6][O:5])[H:8],1.78443779295
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.94231884598
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:11].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.45284784417
[H:12].[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.32443881454
[H:10].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.8856147952
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],1.5863239112600005
[C:7]([H:8])([H:9])[O:10][H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-3.46642275324
[H:1][O:2][C:3][H:4].[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-1.87504285371
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][O:3][H:4],3.9074425278199993
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3],8.52914733
[H:1][C:2]=[C:3]([H:4])/[C:5]([O:6][H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2]#[C:3]/[C:5]([O:6][H:7])=[C:8](\[H:9])[O:10][H:11].[H:4],1.98391351481
[C:1]#[C:2][O:3]/[C:4]=[C:6](\[H:7])[O:8][H:9].[H:5]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-5.27413342016
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3],0.35307230758
[C:5]([H:6])([H:7])=[C:8][O:9][H:10].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],0.7479528023600001
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:12].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11],4.64151727576
[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]1[C:3][C:4]1[C:5][O:6][C:7]([H:8])([H:9])[H:10],2.09747480226
[O:1]=[C:2]([H:3])/[C:4]=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11].[O:5]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-5.5663960063
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2]#[C:3][O:4][H:5],1.1215158827299998
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4],5.85240672077
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:5],1.4938759378400002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:6]#[C:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5],5.13097004759
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.73387480865
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2],8.060019769710001
[C:6]([H:7])([H:8])[H:9].[H:1][O:2][O:3][C:4](=[C:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.99958079808
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8][O:9][C:10]([H:11])[H:12]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]1/[O:9][C:10]1([H:11])[H:12],-1.82070457051
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[O:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11].[O:12],8.06912277435
